US05750549
(+/-)-1-(3,5-Bis(trifluoromethy)phenyl)-1-hydroxyethane
To a solution of 17.8 g of 3',5'-bis(trifluoromethyl) acetophenone in 300 mL of absolute ethanol was added 1.32 g of NaBH4 while stirring in an ice bath. After 30 min the ice bath was removed and stirring was continued for an additional 1.5 h. The reaction was quenched using excess 2N HCl and the solvent was mostly evaporated in vacuo. The residue was partitioned between ethyl acetate and aq. HCl and the aqueous layer was extracted again with ethyl acetate. The separate organic layers were sequentially washed with brine, then combined, dried over MgSO4 and evaporated to provide 16.74 g of the title compound as a white solid after vacuum drying.

reactant | 3',5'-bis(trifluoromethyl) acetophenone | 17.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)=O)(F)F | C10H6F6O
reactant | NaBH4 | 1.32 g | [BH4-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | (+/-)-1-(3,5-Bis(trifluoromethy)phenyl)-1-hydroxyethane | 16.74 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)O)(F)F | C10H8F6O
